US07132551B2
Following exactly the same two step procedure used in the previous example for the preparation of 3-{2-[3-(4-Trifluoromethyl-phenoxymethyl)-piperidin-1-yl]-ethyl}-1H-indole but using biphenyl-4-yl-acetic acid in place of (1H-Indol-3-yl)-acetic acid, 1-(2-Biphenyl-4-yl-ethyl)-3-(4-trifluoromethyl-phenoxymethyl)-piperidine was obtained in 54% overall yield from 0.19 mmol of 3-(4-Trifluoromethyl-phenoxymethyl)-piperidine, 181. Data for this compound: MS 440 (M++1).

reactant | 3-{2-[3-(4-Trifluoromethyl-phenoxymethyl)-piperidin-1-yl]-ethyl}-1H-indole | FC(C1=CC=C(OCC2CN(CCC2)CCC2=CNC3=CC=CC=C23)C=C1)(F)F | C23H25F3N2O
reactant | biphenyl-4-yl-acetic acid | C1(=CC=C(C=C1)CC(=O)O)C1=CC=CC=C1 | C14H12O2
product | 1-(2-Biphenyl-4-yl-ethyl)-3-(4-trifluoromethyl-phenoxymethyl)-piperidine | C1(=CC=C(C=C1)CCN1CC(CCC1)COC1=CC=C(C=C1)C(F)(F)F)C1=CC=CC=C1 | C27H28F3NO
